US08633200B2
Methyl 2-(7-chloro-5-methyl-3-phenylpyrazolo[1,5-a]pyrimidin-6-yl)acetate
To methyl 2-(7-hydroxy-5-methyl-3-phenyl-4,7-dihydropyrazolo[1,5-a]pyrimidin-6-yl)acetate (0.5 g, 1.68 mmol) was added POCl3 (1 mL). The reaction mixture was heated at reflux for 1 h. After cooling, the reaction mixture was added drop-wise to ice-water. A brown solid precipitated. The solid were filtered and washed with water, then dissolved in ethyl acetate. The organic solution was washed with saturated NaHCO3 and dried over sodium sulfate. The solvent was evaporated to give the title compound (0.48 g, 90%). 1H-NMR (500 MHz, MeOD) δ ppm 2.66 (3H, s), 3.77 (3H, s), 4.04 (2H, s), 7.26 (1H, s), 7.42 (2H, s), 8.09 (2H, s), 8.57 (1H, s).

reactant | methyl 2-(7-hydroxy-5-methyl-3-phenyl-4,7-dihydropyrazolo[1,5-a]pyrimidin-6-yl)acetate | 1.68 mmol, 0.5 g | OC1C(=C(NC=2N1N=CC2C2=CC=CC=C2)C)CC(=O)OC | C16H17N3O3
reactant | POCl3 | 1 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | Methyl 2-(7-chloro-5-methyl-3-phenylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 0.48 g, 90% | ClC1=C(C(=NC=2N1N=CC2C2=CC=CC=C2)C)CC(=O)OC | C16H14ClN3O2
